US04250094
In the manner given in Example 1, 9-(propylthio)-1-(α-chloropropyl)-6-(2,4-diethylphenyl)-4H-s-triazolo[4,3-a]-[1,4]-benzodiazepine was reacted with dimethylamine in the presence of sodium iodide to give 1-[α-(dimethylamino)propyl]-9-(propylthio)-6-(2,4-diethylphenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 9-(propylthio)-1-(α-chloropropyl)-6-(2,4-diethylphenyl)-4H-s-triazolo[4,3-a]-[1,4]-benzodiazepine | C(CC)SC1=CC2=C(C(=NCC=3N2C(=NN3)C(CC)Cl)C3=C(C=C(C=C3)CC)CC)C=C1 | C26H31ClN4S
reactant | dimethylamine | CNC | C2H7N
reactant | sodium iodide | [I-].[Na+]
product | 1-[α-(dimethylamino)propyl]-9-(propylthio)-6-(2,4-diethylphenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | CN(C(CC)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=C(C=C2)CC)CC)C=CC(=C1)SCCC)C | C28H37N5S
